US05270309
To a solution of 4-chloro-2-iodo-5-nitroaniline (8.5 g) in ethanol (38 ml) was added concentrated sulphuric acid (4.4 ml) dropwise, then the solution was heated to reflux and solid sodium nitrite (4.9 g) added in small amounts over 30 minutes. The mixture was refluxed a further one hour and poured into ice water, the product extracted into ethyl acetate, washed with water and brine and the organic layer was dried over sodium sulfate. The solution was evaporated and the residue purified by column chromatography to give 5-chloro-3-iodonitrobenzene (3.4 g). δ (360 MHz, DMSO-d6) 8.28 (1H, d, 2-H), 8.35 (1H, d, 6-H) and 8.46 (1H, d, 4-H).

reactant | 4-chloro-2-iodo-5-nitroaniline | 8.5 g | ClC1=CC(=C(N)C=C1[N+](=O)[O-])I | C6H4ClIN2O2
reactant | sulphuric acid | 4.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 4.9 g | N(=O)[O-].[Na+]
solvent | ethanol | 38 ml | C(C)O | C2H6O
product | 5-chloro-3-iodonitrobenzene | 3.4 g | ClC=1C=C(C=C(C1)[N+](=O)[O-])I | C6H3ClINO2
